US07820683B2
N-(2-hydroxyethyl)-N-methyl-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]acetamide
Using the same procedure as in Example 5, methyl [(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]acetate (200 mg, 0.45 mmol) was reacted with 2-(methylamino)ethanol (0.219 ml, 2.73 mmol) to give the title compound as a white solid (130 mg, 59%), except that the reaction was run at 45° C. for 18 hours. NMR Spectrum (2 rotamers, ratio 2/1) 2.97 and 3.08 (s, 3H), 3.62-3.43 (m, 4H), 4.73 and 4.99 (t, 1H), 5.16 and 5.23 (s, 2H), 5.77 (s, 2H), 6.96 (d, 1H), 7.37-7.18 (m, 3H), 7.75-7.69 (m, 3H), 7.90 (m, 1H), 8.15 (s, 1H), 8.53 (m, 2H), 8.57 (s, 1H), 11.20 and 11.21 (br s, 1H); Mass spectrum MH+ 484.

reactant | methyl [(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]acetate | 0.45 mmol, 200 mg | N1=C(C=CC=C1)CN1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=CC(=C12)OCC(=O)OC | C24H20N6O3
reactant | 2-(methylamino)ethanol | 2.73 mmol, 0.219 ml | CNCCO | C3H9NO
product | N-(2-hydroxyethyl)-N-methyl-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]acetamide | 130 mg, 59% | OCCN(C(COC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NN(C2=CC1)CC1=NC=CC=C1)=O)C | C26H25N7O3
